US07217730B2
(1S)-(5-Cyano-8-methyl-7-propoxy-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid
Examples 362–368 were synthesized following the above mentioned procedure for example 359 using the intermediate (5-cyano-7-hydroxy-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester and coupling it with the following alcohols: ethanol, methanol, isopropanol, n-butyl alcohol, 3,3-dimethyl-1-butanol, 3-fluorobenzyl alcohol, and benzyl alcohol. The resulting esters were hydrolyzed using 10% NaOH (aq) in EtOH.

reactant | (5-cyano-7-hydroxy-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | C(C)OC(CC1(OCCC2=C1NC1=C(C(=CC(=C21)C#N)O)C)CCC)=O | C20H24N2O4
reactant | 3,3-dimethyl-1-butanol | CC(CCO)(C)C | C6H14O
reactant | 3-fluorobenzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | ethanol | C(C)O | C2H6O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
product | (1S)-(5-Cyano-8-methyl-7-propoxy-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | C(#N)C1=C2C3=C(NC2=C(C(=C1)OCCC)C)[C@](OCC3)(CCC)CC(=O)O | C21H26N2O4
